* OPAx828 - Rev. A
* Created by Ian Williams; December 08, 2018
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2018 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPAx828 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=450e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=10e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
R1 N038 N036 R_NOISELESS 1e-3 
R2 N047 ESDn R_NOISELESS 1e-3 
R3 N067 0 R_NOISELESS 1e9 
C1 N067 0 1
R4 VCC_B N066 R_NOISELESS 1e-3 
C2 N066 0 1e-15
C3 N068 0 1e-15
R5 N068 VEE_B R_NOISELESS 1e-3 
G1 N038 N039 N005 N011 1e-3
R6 MID N045 R_NOISELESS 1e9 
VCM_MIN N046 VEE_B +2.5
R7 N046 MID R_NOISELESS 1e9 
VCM_MAX N045 VCC_B -3.5
XVCM_CLAMP N039 MID N042 MID N045 N046 VCCS_EXT_LIM_OPAx828
R8 N042 MID R_NOISELESS 1 
C4 N043 MID 1e-15
R9 N042 N043 R_NOISELESS 1e-3 
V4 N062 OUT 0
R10 MID N048 R_NOISELESS 1e9 
R11 MID N049 R_NOISELESS 1e9 
XIQp VIMON MID VCC MID VCCS_LIM_IQ_OPAx828
XIQn MID VIMON MID VEE VCCS_LIM_IQ_OPAx828
R12 VCC_B N012 R_NOISELESS 1e3 
R13 N025 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N012 VCC_B VCCS_LIM_CLAWp_OPAx828
XCLAWn MID VIMON VEE_B N025 VCCS_LIM_CLAWn_OPAx828
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N013 N012 R_NOISELESS 1e-3 
R17 N026 N025 R_NOISELESS 1e-3 
C5 MID N013 1e-15
C6 N026 MID 1e-15
R18 VOUT_S N049 R_NOISELESS 100 
C7 VOUT_S MID 1e-9
G2 MID VCC_CLP N013 MID 1e-3
G3 MID VEE_CLP N026 MID 1e-3
XCL_AMP N008 N037 VIMON MID N016 N023 CLAMP_AMP_LO_OPAx828
V_ISCp N008 MID 48
V_ISCn N037 MID -48
XOL_SENSE_OPAx828 MID N071 N070 N073 OL_SENSE_OPAx828
R19 N037 MID R_NOISELESS 1e9 
R20 N023 MID R_NOISELESS 1 
C8 N024 MID 1e-15
R21 MID N016 R_NOISELESS 1 
R22 MID N008 R_NOISELESS 1e9 
C9 MID N017 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N014 N021 CLAMP_AMP_LO_OPAx828
R23 VEE_CLP MID R_NOISELESS 1e9 
R24 N021 MID R_NOISELESS 1 
C10 N022 MID 1e-15
R25 MID N014 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e9 
C11 MID N015 1e-15
XCL_SRC N017 N024 CL_CLAMP MID VCCS_LIM_4_OPAx828
XCLAW_SRC N015 N022 CLAW_CLAMP MID VCCS_LIM_3_OPAx828
R27 N014 N015 R_NOISELESS 1e-3 
R28 N022 N021 R_NOISELESS 1e-3 
R29 N016 N017 R_NOISELESS 1e-3 
R30 N024 N023 R_NOISELESS 1e-3 
R31 N071 MID R_NOISELESS 1 
R32 N071 SW_OL R_NOISELESS 100 
C12 SW_OL MID 1e-12
R33 VIMON N048 R_NOISELESS 100 
C13 VIMON MID 1e-9
C_DIFF ESDp ESDn 6e-12
C_CMn ESDn MID 9e-12
C_CMp MID ESDp 9e-12
I_Q VCC VEE 5.5e-3
I_B N041 MID 1e-12
I_OS ESDn MID 1e-15
R34 IN+ ESDp R_NOISELESS 10e-3 
R35 IN- ESDn R_NOISELESS 10e-3 
R36 N033 MID R_NOISELESS 1 
R37 N040 MID R_NOISELESS 1e9 
R38 MID N019 R_NOISELESS 1 
R39 MID N009 R_NOISELESS 1e9 
XGR_AMP N009 N040 N018 MID N019 N033 CLAMP_AMP_HI_OPAx828
XGR_SRC N020 N034 CLAMP MID VCCS_LIM_GR_OPAx828
C17 MID N020 1e-15
C18 N034 MID 1e-15
V_GRn N040 MID -43
V_GRp N009 MID 43
R40 N019 N020 R_NOISELESS 1e-3 
R41 N034 N033 R_NOISELESS 1e-3 
R42 VSENSE N018 R_NOISELESS 1e-3 
C19 MID N018 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G5 N035 N036 N007 MID 1e-3
G8 MID CLAW_CLAMP N052 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3 
R47 N063 VCLP R_NOISELESS 100 
C24 MID VCLP 1e-12
E4 N063 MID CL_CLAMP MID 1
E5 N049 MID OUT MID 1
H1 N048 MID V4 1e3
S1 N054 N053 SW_OL MID OL_SW
R52 MID ESDp R_NOISELESS 1e12 
R53 ESDn MID R_NOISELESS 1e12 
R58 N036 N035 R_NOISELESS 1e3 
R59 N066 N067 R_NOISELESS 1e6 
R60 N067 N068 R_NOISELESS 1e6 
R67 N039 N038 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N032 VCLP 7.5
V_ORn N027 VCLP -7.5
V11 N029 N028 0
V12 N030 N031 0
H2 N069 MID V11 -1
H3 N072 MID V12 1
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N067 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1 
R89 VEE_B 0 R_NOISELESS 1 
S8 N030 CLAMP CLAMP N030 OR_SW
S9 CLAMP N029 N029 CLAMP OR_SW
Xe_n ESDp N041 VNSE_OPAx828
XVCCS_LIMIT_1 N043 N047 MID N044 VCCS_LIM_1_OPAx828
XVCCS_LIMIT_2 N044 MID MID CLAMP VCCS_LIM_2_OPAx828
R44 N044 MID R_NOISELESS 1e6 
R68 CLAMP MID R_NOISELESS 1e6 
C20 CLAMP MID 3.95e-8
G7 MID N050 VSENSE MID 1e-6
R69 N050 MID R_NOISELESS 1e6 
C25 N050 MID 4.3e-16
G10 MID N028 N027 MID 1
R73 N028 MID R_NOISELESS 1 
G11 MID N031 N032 MID 1
R74 N031 MID R_NOISELESS 1 
R72 N070 N069 R_NOISELESS 100
R75 N072 N073 R_NOISELESS 100
C27 N070 MID 1e-12
C28 N073 MID 1e-12
XVCCS_LIM_ZO_OPAx828 N060 MID MID N061 VCCS_LIM_ZO_OPAx828
G20 MID N051 N050 MID 1e-6
R50 N051 MID R_NOISELESS 1e6 
C22 N051 MID 3.98e-16
XVOS_DRIFT_OPAx828 N035 N041 VOS_DRIFT_OPAx828
Rx N062 N061 R_NOISELESS 3285
Rdummy N062 MID R_NOISELESS 328.5
G4 MID N053 CL_CLAMP N062 88.5
Rdc1 N053 MID R_NOISELESS 1
R65 N053 N054 R_NOISELESS 1e4
R66 N054 MID R_NOISELESS 5220.21
G6 MID N055 N054 MID 2.915
C26 N054 N053 3.95e-6
R70 N055 MID R_NOISELESS 1
R71 N055 N056 R_NOISELESS 214
R82 N056 N064 R_NOISELESS 1e4
C32 MID N064 1.11e-10
Gb3 MID N057 N056 MID 1
R86 N059 MID R_NOISELESS 1
R87 N059 N060 R_NOISELESS 1e4
R90 N060 MID R_NOISELESS 204.1
C33 N060 N059 7.96e-15
R91 N061 MID R_NOISELESS 1
R92 N057 MID R_NOISELESS 1
R93 N057 N058 R_NOISELESS 92564
R94 N058 N065 R_NOISELESS 1e4
C34 MID N065 7.96e-15
Gb4 MID N059 N058 MID 1
G22 MID N052 N051 MID 1e-6
R61 N052 MID R_NOISELESS 1e6 
C21 N052 MID 3.98e-16
C29 N007 N006 3.83e-9
R62 N007 MID R_NOISELESS 0.416
R63 N007 N006 R_NOISELESS 1e4
G18 MID N006 ESDp MID 4.27e-2
Rsrc3 N006 MID R_NOISELESS 1
C14 N003 N004 7.96e-9
R48 N003 MID R_NOISELESS 20.04
R49 N003 N004 R_NOISELESS 1e4
G12 MID N004 VCC_B MID 7.06e-4
Rsrc1 N004 MID R_NOISELESS 1
Rdc2 N002 MID R_NOISELESS 1
R76 N002 N001 R_NOISELESS 1e4
R77 N001 MID R_NOISELESS 20.04
G19 MID N005 N001 MID 500
C30 N001 N002 7.96e-11
R78 N005 MID R_NOISELESS 1
G21 MID N002 N003 MID 1
C15 N011 N010 2.65e-9
R54 N011 MID R_NOISELESS 3
R55 N011 N010 R_NOISELESS 1e6
G13 MID N010 VEE_B MID 4.71e-1
Rsrc2 N010 MID R_NOISELESS 1
.ends
*
.subckt CLAMP_AMP_HI_OPAx828 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*
.subckt OL_SENSE_OPAx828 1 2 3 4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends
*
.subckt VCCS_EXT_LIM_OPAx828 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends
*
.subckt VCCS_LIM_3_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 8.5e-2
.param Ineg = -8.5e-2
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_4_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.171
.param Ineg = -0.171
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_CLAWp_OPAx828 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 9.08e-4)
+(20, 1.15e-3)
+(45, 1.47e-3)
+(46, 1.49e-3)
+(47, 1.65e-3)
+(48, 2.86e-3)
.ends
*
.subckt VCCS_LIM_CLAWn_OPAx828 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 8.7e-4)
+(45, 1.42e-3)
+(46, 1.44e-3)
+(47, 1.52e-3)
+(48, 2.92e-3)
.ends
*
.subckt VCCS_LIM_IQ_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends
*
.subckt VNSE_OPAx828 1 2
.param FLW = 0.11
.param GLF=0.032
.param RNV=16.21
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends
*
.subckt CLAMP_AMP_LO_OPAx828 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*
.subckt VCCS_LIM_GR_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 12.36
.param Ineg = -12.36
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_1_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_2_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 0.114
.param Ipos = 6.18
.param Ineg = -6.18
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VCCS_LIM_ZO_OPAx828 VC+ VC- IOUT+ IOUT-
.param Gain = 50
.param Ipos = 315
.param Ineg = -315
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*
.subckt VOS_DRIFT_OPAx828 VOS+ VOS-
.param DC = -2.737e-5
.param POL = 1
.param DRIFT = 5e-7
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*